US05919799
Synthesis of 2-phenyl-3-[3-pyridylcarbonylaminoiminomethyl]imidazo[2,1-b]benzothiazole (Compound 14)
0.28 g of 2-phenyl-3-formylimidazo[2,1-b]benzothiazole, 0.15 g of N-methylnipecotohydrazide, and 0.1 g of potassium hydroxide were heated and stirred in 20 ml of methanol at 90° C. for 6 hours. After cooling, the desired substance was obtained in an amount of 0.27 g (yield of 68.0%).

reactant | 2-phenyl-3-formylimidazo[2,1-b]benzothiazole | 0.28 g | C1(=CC=CC=C1)C=1N=C2SC3=C(N2C1C=O)C=CC=C3 | C16H10N2OS
reactant | N-methylnipecotohydrazide | 0.15 g | CN(N)C(C1CNCCC1)=O | C7H15N3O
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-phenyl-3-[3-pyridylcarbonylaminoiminomethyl]imidazo[2,1-b]benzothiazole | yield of 68.0% | C1(=CC=CC=C1)C=1N=C2SC3=C(N2C1C=NNC(=O)C=1C=NC=CC1)C=CC=C3 | C22H15N5OS
